US07109332B2
2-Amino-4-(tert-butoxycarbonylamino)-benzoic acid methyl ester
To a solution of 4-(tert-butoxycarbonylamino)-2-nitro-benzoic acid methyl ester (7.0 g, 23.6 mmoles) in 400 mL ethyl acetate was added 1.0 g 10% Pd/C. The reaction mixture was subjected to hydrogenation using a balloon for 24–36 hrs or until the reaction was complete as monitored by HPLC. The mixture was filtered through a celite bed, and the solid cake was thoroughly washed by ethyl acetate. The filtrate was concentrated in vacuo to dryness to afford the title compound (6.3 g, 99%). ES+ MS showed 267 m/z, the correct mass for the product.

reactant | 4-(tert-butoxycarbonylamino)-2-nitro-benzoic acid methyl ester | 23.6 mmoles, 7.0 g | COC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C13H16N2O6
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 2-Amino-4-(tert-butoxycarbonylamino)-benzoic acid methyl ester | 6.3 g, 99% | COC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C13H18N2O4
